US09402833B2
A solution of tert-butyl(cyclopropylmethyl)carbamate (4 g, 23.4 mmol) in DMF (35 mL) was added to a suspension of NaH (60% suspension in mineral oil) (0.58 g, 25.7 mmol) in DMF (5 mL) at 0-5° C., to it was added Iodomethane (2.5 mL, 40 mmol) and stirring was continued at 25° C. for 16 h. Reaction mixture was quenched with cold water, extracted with ethyl acetate (3×50 mL), dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude, which was purified by flash chromatography (Biotage, Column: silica gel 12 g pack size, solid load, Mobile Phase: EtOAc in n-Hexane: 0 to 5% as eluent) to afford tert-butyl(cyclopropylmethyl)(methyl)carbamate (Int-37) as pale yellow oil. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.0-2.9 (2H, d), 2.85 (3H, s), 1.4 (9H, s), 0.9-0.7 (1H, bs), 0.5-0.3 (2H, m), 0.2-0.05 (2H, m).

reactant | tert-butyl(cyclopropylmethyl)carbamate | 23.4 mmol, 4 g | C(C)(C)(C)OC(NCC1CC1)=O | C9H17NO2
reactant | NaH | 25.7 mmol, 0.58 g | [H-].[Na+]
reactant | Iodomethane | 40 mmol, 2.5 mL | IC | CH3I
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl(cyclopropylmethyl)(methyl)carbamate | C(C)(C)(C)OC(N(C)CC1CC1)=O | C10H19NO2
